US06498165B1
Step C: 2-Ethylthio-4-(benzimidazol-1-yl)-5-cyanopyrimidine
To a suspension of sodium hydride (31 mg, 0.78 mmol) in DMF (2.5 mL) at 0° C. was added benzimidazole (86 mg, 0.72 mmol). After stirring for 5 min, the reaction mixture was warmed to room temperature. To this was added 2-ethylthio-4-chloro-5-cyanopyrimidine (130 mg, 0.65 mmol) dissolved in DMF (1.0 mL), then the mixture was heated at 100° C. for 1 h. The reaction mixture was cooled and carefully diluted with H2O. The aqueous layer was extracted with EtOAc several times, and the combined extracts were washed with brine. After drying over Na2SO4, the crude material was purified by flash chromatography using 1:7 acetone:hexane system to give 126 mg of the title compound. Mass spectrum 282.2 (ESI, M+1).

reactant | sodium hydride | 0.78 mmol, 31 mg | [H-].[Na+]
reactant | benzimidazole | 0.72 mmol, 86 mg | N1=CNC2=C1C=CC=C2 | C7H6N2
reactant | 2-ethylthio-4-chloro-5-cyanopyrimidine | 0.65 mmol, 130 mg | C(C)SC1=NC=C(C(=N1)Cl)C#N | C7H6ClN3S
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | 2-Ethylthio-4-(benzimidazol-1-yl)-5-cyanopyrimidine | 126 mg | C(C)SC1=NC=C(C(=N1)N1C=NC2=C1C=CC=C2)C#N | C14H11N5S
